US06900309B1
6-[(2,2-Diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylic acid
To a suspension of 6-[(2,2-diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carbonitrile (176 g, 0.415 moles) (Preparation 13) in industrial methylated spirits (770 ml) was added a solution of sodium hydroxide (33.3 g, 0.83 moles) in deionised water (110 ml). The resultant slurry was heated under reflux for 2.5 hours during which time a clear solution formed. The mixture was allowed to cool to ambient temperature over 16 hours which resulted in the formation of a precipitate. Water (200 ml) was then added, and the mixture was distilled at atmospheric pressure. Over the course of the distillation, water (500 ml) was added periodically to the mixture, and a total of 720 ml of distillate was collected. The resultant mixture was allowed to cool slowly to ambient temperature with stirring and a thick precipitate formed. The slurry was cooled in an ice-bath, and the solid was collected by filtration. The filter cake was washed with a solution of deionised water (225 ml) and industrial methylated spirits (25 ml). The damp filter cake was suspended in a mixture of deionised water (965 ml) and dichloromethane (965 ml) and the pH of the mixture was adjusted to pH 1.2 by the addition of concentrated hydrochloric acid. The phases were separated and the aqueous layer was extracted with dichloromethane (300 ml). The organic phases were combined and the solvent was distilled at atmospheric pressure until 750 ml of distillate had collected. Ethyl acetate (1100 ml) was added and distillation was continued until a further 750 ml of distillate had collected and an off-white precipitate had formed. The resulting slurry was allowed to cool to ambient temperature and was further cooled in an ice-bath. The solid was collected by filtration and the filter cake was washed with chilled ethyl acetate (2×350 ml). The resultant solid was dried in an oven at 70° C. under reduced pressure to give the title compound as an off-white solid (163 g), m.p. 155° C. (with decomposition).

reactant | 6-[(2,2-diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carbonitrile | 0.415 moles, 176 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C#N)C1OCCCC1)C1=CC=CC=C1 | C25H24N6O
reactant | sodium hydroxide | 0.83 moles, 33.3 g | [OH-].[Na+]
reactant | water | 110 ml | O | H2O
reactant | Water | 200 ml | O | H2O
product | 6-[(2,2-Diphenylethyl)amino]-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2-carboxylic acid | 163 g | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)O)C1OCCCC1)C1=CC=CC=C1 | C25H25N5O3
